US08685969B2
A mixture of 3-(3-bromo-2-methylphenyl)quinazolin-4(3H)-one (0.89 g, 2.82 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.076 g, 4.24 mmol), potassium acetate (0.831 g, 8.47 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with CH2Cl2 (0.115 g, 0.141 mmol) in dioxane (10 mL) was heated at 110° C. for 5 h. The mixture was cooled to room temperature, diluted with EtOAc and washed with water. The organic phase was filtered, dried and concentrated. The residue was purified by column chromatography on silica gel (40 g), eluting with EtOAc-hexane (gradient from 20:80 to 40:60) to provide 3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one as a white glassy foam (800 mg, 78% yield). LCMS (M+H)+ m/z 363.2.

reactant | 3-(3-bromo-2-methylphenyl)quinazolin-4(3H)-one | 2.82 mmol, 0.89 g | BrC=1C(=C(C=CC1)N1C=NC2=CC=CC=C2C1=O)C | C15H11BrN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.24 mmol, 1.076 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 8.47 mmol, 0.831 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.141 mmol, 0.115 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one | 800 mg, 78% yield | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C=NC2=CC=CC=C2C1=O | C21H23BN2O3
